* source TPS259830L_TRANS
X_U2         VOUT N00450 N00209 BFET
C_C1         0 DVDT/BGATE  3.3n  TC=0,0 
R_R1         DVDT/BGATE N00450  1 TC=0,0 
R_R2         N00534 PGOOD  100k TC=0,0 
C_C6         0 VIN  220uF  
V_V3         VIN 0  
+PULSE 0 12 2m 2m 2m 1 2
R_R8         EN 0  125k TC=0,0 
R_I_IN         VIN N16675287  0.01m  
R_R7         VIN EN  1MEG TC=0,0 
R_RIMON         N16675427 0  900 TC=0,0 
C_CTIMER         0 ITIMER  4.7n  
R_RLIM         ILIM 0  82 TC=0,0 
C_COUT         VOUT 0  220u  
R_RLOAD         0 VOUT  12  
V_V2         N00534 0 5
X_U3         DVDT/BGATE EN 0 ILIM N16675427 N16675287 N16675287 N16675287
+  N16675287 ITIMER N16675571 N00209 N00209 N00209 N00209 N00209 N00209 N00209
+  N00209 0 PGOOD N16675832 TPS259830LNRGE
